US08193192B2
A mixture of 4-(6-chloro-pyridazin-3-yloxy)-benzoic acid methyl ester (1.0 g, 3.78 mmol) from the previous step and anhydrous potassium acetate (0.526 g, 5.37 mmol) in glacial acetic acid (10 ml) was refluxed for 13 h. The volatiles were evaporated in vacuo and the residue was diluted with dichloromethane (20 ml). The separated solid was collected by filtration, washed with 50% aqueous ethanol (2×5 ml) and water (4×7 ml) and dried to provide 0.7 g (43%) of 4-(6-oxo-1,6-dihydro-pyridazin-3-yloxy)-benzoic acid methyl ester.

reactant | 4-(6-chloro-pyridazin-3-yloxy)-benzoic acid methyl ester | 3.78 mmol, 1.0 g | COC(C1=CC=C(C=C1)OC=1N=NC(=CC1)Cl)=O | C12H9ClN2O3
reactant | potassium acetate | 5.37 mmol, 0.526 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-(6-oxo-1,6-dihydro-pyridazin-3-yloxy)-benzoic acid methyl ester | 0.7 g, 43% | COC(C1=CC=C(C=C1)OC1=NNC(C=C1)=O)=O | C12H10N2O4
